US05424309
3.3 g of molecular sieve (powder, 3A) was suspended in 190 ml of dry dichloromethane, and 4.2 ml of isopropyl orthotitanate and 2.9 ml of diethyl L(+)-tartrate were added thereto at -23° C. under stirring. The mixture was stirred at the same temperature for 15 minutes. Then, 3 ml of a dry dichloromethane solution of 4.7 g of (E)-4-benzyloxy-2-buten-1-ol was added thereto, and the mixture was stirred at the same temperature for 5 minutes. 11 ml of tert-butylhydroperoxide (a 5.17M dichloromethane solution) was added thereto, and the mixture was stirred for further 7 hours. Then, the reaction mixture was left to stand at -23° C. overnight. 190 ml of diethyl ether and 4.2 ml of a saturated sodium sulfate aqueous solution were added to the reaction solution, and the mixture was stirred at room temperature for 4 hours. Insolubles were removed by filtration, and then the solvent was distilled off under reduced pressure. The residue was dissolved in 240 ml of diethyl ether. 42 ml of a 1N sodium hydroxide aqueous solution was added thereto at 0° C. under stirring, and the mixture was stirred at 0° C. for 30 minutes. The ether layer was washed sequentially with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1) to obtain 2.9 g of (2S, 3S)-4-benzyloxy-2,3-epoxy-1-butanol as colorless oily substance.

reactant | diethyl L(+)-tartrate | 2.9 ml | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
reactant | (E)-4-benzyloxy-2-buten-1-ol | 4.7 g | C(C1=CC=CC=C1)OC/C=C/CO | C11H14O2
reactant | tert-butylhydroperoxide | 11 ml | C(C)(C)(C)OO | C4H10O2
reactant | sodium sulfate | 4.2 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
catalyst | isopropyl orthotitanate | 4.2 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | dichloromethane | 5.17M | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 190 ml | C(C)OCC | C4H10O
product | (2S, 3S)-4-benzyloxy-2,3-epoxy-1-butanol | 2.9 g | C(C1=CC=CC=C1)OC[C@H]1[C@H](CO)O1 | C11H14O3
